US06824892B2
(7) Synthesis of 2-(N-carbazolyl)-5-(2′-ethylhexyloxy)-1,4-bis(hydroxymethyl)benzene
300 ml of absolute THF and 0.94 g (2.5×10−2 mol) of LiAlH4 were introduced into a three-neck flask. While stirring the flask, 4 g (8.2×10−3 mol) of 2-(N-carbazolyl)-5-(2′-ethylhexyloxy)-dimethylterephthalate prepared in the above step (6) in 150 ml of THF was slowly added thereto. After being refluxed for 4 hours, the reaction solution was cooled to room temperature and combined with 0.9 ml of water, 0.9 ml of 15% NaOH and 2.7 ml of water, in order. The precipitate so formed was filtered off and the solvent was distilled off under reduced pressure, to obtain the title compound as white solids. M.p.: 128° C.; yield: 97% (3.4 g).

reactant | LiAlH4 | 2.5×10−2 mol, 0.94 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-(N-carbazolyl)-5-(2′-ethylhexyloxy)-dimethylterephthalate | 8.2×10−3 mol, 4 g | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=C(C(=O)[O-])C(=C(C(=C1C)C(=O)[O-])OCC(CCCC)CC)C
reactant | water | 0.9 ml | O | H2O
reactant | NaOH | 0.9 ml | [OH-].[Na+]
reactant | water | 2.7 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 2-(N-carbazolyl)-5-(2′-ethylhexyloxy)-1,4-bis(hydroxymethyl)benzene | yield: 97% | C1=CC=CC=2C3=CC=CC=C3N(C12)C1=C(C=C(C(=C1)CO)OCC(CCCC)CC)CO | C28H33NO3
